US04937268
[3-[2-(3-Bromopropoxy)ethoxy]propoxy]benzene
Triphenylphosphine (2.01 g) in dry dichloromethane (16 ml) was added dropwise over 20 min to a stirred solution of 3-[2-(3-phenoxypropoxy)ethoxy]-1-propanol (1.5 g), and carbon tetrabromide (2.54 g) in dry dichloromethane (27 ml) at 0° C. under nitrogen. The solution was allowed to warm to room temperature and stirred under nitrogen for 4 h. The solution was purified by FCC eluting with System F (4:1) to give the title compound (1.75 g) as a colourless oil. T.l.c. (System F 1:1) Rf 0.55

reactant | Triphenylphosphine | 2.01 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-[2-(3-phenoxypropoxy)ethoxy]-1-propanol | 1.5 g | O(C1=CC=CC=C1)CCCOCCOCCCO | C14H22O4
reactant | carbon tetrabromide | 2.54 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 27 ml | ClCCl | CH2Cl2
product | [3-[2-(3-Bromopropoxy)ethoxy]propoxy]benzene | 1.75 g | BrCCCOCCOCCCOC1=CC=CC=C1 | C14H21BrO3
